US07179823B1
A mixture of ethyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethylaminocarbonyl)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate (550 mg), 1 N aqueous sodium hydroxide solution (1.3 ml), ethanol (2 ml), and tetrahydrofuran (2 ml) was stirred at room temperature for two hours. The reaction mixture was acidified with dilute hydrochloric acid, and extracted with ethyl acetate. The ethyl acetate layer was washed with saturated aqueous sodium chloride solution, dried (MgSO4), and concentrated. The obtained crystals were collected by filtration, and 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethylaminocarbonyl)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid (500 mg, yield: 96%) was obtained. This was recrystallized from acetone-methanol. Melting point: 177–178° C.

reactant | ethyl 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethylaminocarbonyl)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionate | 550 mg | CC1=C(N=C(O1)C1=CC=CC=C1)CNC(=O)C1=CC=C(CN2N=C(C(=C2)CCC(=O)OCC)C2=CC=CC=C2)C=C1 | C33H32N4O4
reactant | sodium hydroxide | 1 N, 1.3 ml | [OH-].[Na+]
reactant | ethanol | 2 ml | C(C)O | C2H6O
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | 3-[1-[4-(5-methyl-2-phenyl-4-oxazolylmethylaminocarbonyl)benzyl]-3-phenyl-1H-pyrazol-4-yl]propionic acid | 500 mg, yield: 96% | CC1=C(N=C(O1)C1=CC=CC=C1)CNC(=O)C1=CC=C(CN2N=C(C(=C2)CCC(=O)O)C2=CC=CC=C2)C=C1 | C31H28N4O4
